Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
diarrhea, abdominal pain x4 days
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of htn, GERD, bipolar disorder presenting with 
diarrhea and abdominal pain x4 days.
She reports that, on ___, she began to feel unwell, on ___ 
developed headaches, myalgias, abdominal pain, subjective 
fevers, chills, and began to develop diarrhea. She took aleve 
with relief of her HA, but ___ and ___ spent "the whole day in 
the bathroom," with decreased urination, copious watery 
diarrhea, and anorexia. On ___, she noted some bright red blood 
on toilet paper. On ___, given persistent blood on toilet 
paper, she phoned her PCP's office. She does note that her 
appetite has improved, and that her diarrhea has significantly 
improved. She notes feeling much better since receiving IVF in 
ED. Abdominal pain was initially mid-abdominal, but has now 
shifted towards suprapubic region. Pain is an ache at first, 
then progresses to a jabbing pain. Defecation temporarily 
relieves the pain. She does note some discomfort prior to 
defecation at baseline, as well as fecal urgency ___ year. She 
notes that has not previously mentioned this to her PCP. With 
respect to the BRBPR, she is unsure if there is blood mixed in 
the stool in the toilet bowel. On the toilet paper, it looks 
like she has "cut herself." Defecation itself is painless.
She cannot recall the last time she took antibiotics. No sick 
contacts. She did travel to ___ for ___ and returned on 
___ she believes she may have picked up a bug on the bus. 
She endorses nausea with onset of symptoms, without emesis.

In the ___ ED:
___
Labs notable for Cr 1.8, previously WNL, improved to 1.4 with 3L 
IVF
LFTs WNL
Lactate 1.6
UA negative, Used with hyaline casts
Stool studies sent - O+P, C. dif, culture
BCx sent
Received 3L IVF in total

ROS: All else negative
 
Past Medical History:
GERD
Hypertension
Bipolar disorder
Depression
 
Social History:
___
Family History:
Adopted, unaware of family history. Children are in good health.
 
Physical Exam:
VS: 98.7, 141/72, 79, 100% RA
Gen: Very pleasant elderly female, lying in bed, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera, MMM
Neck: Supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: Diffuse end expiratory wheeze and modestly diminished air 
movement
Abd: obese, soft, nondistended, mild TTP in bilateral LQs, no 
rebound or guarding, +BS
GU: No foley
Ext: WWP, no c/c/e
Neuro: grossly intact
 
Pertinent Results:
___ 11:38PM   GLUCOSE-102* UREA N-20 CREAT-1.4* SODIUM-142 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-21* ANION GAP-17
___ 04:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 04:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:30PM URINE  RBC-0 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-3
___ 04:30PM URINE  HYALINE-42*
___ 04:30PM URINE  MUCOUS-RARE
___ 03:52PM   GLUCOSE-80 UREA N-24* CREAT-1.6* SODIUM-141 
POTASSIUM-3.4 CHLORIDE-107 TOTAL CO2-24 ANION GAP-13
___ 02:03PM   LACTATE-1.6
___ 01:22PM   GLUCOSE-103* UREA N-26* CREAT-1.8* SODIUM-136 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-20* ANION GAP-18
___ 01:22PM   estGFR-Using this
___ 01:22PM   ALT(SGPT)-24 AST(SGOT)-27 ALK PHOS-99 TOT 
BILI-0.1
___ 01:22PM   LIPASE-19
___ 01:22PM   ALBUMIN-3.5
___ 01:22PM   WBC-7.1 RBC-4.47 HGB-13.1 HCT-39.9 MCV-89 
MCH-29.3 MCHC-32.8 RDW-14.3 RDWSD-46.5*
___ 01:22PM   NEUTS-54 BANDS-5 ___ MONOS-10 EOS-7 
BASOS-0 ___ METAS-1* MYELOS-0 AbsNeut-4.19 AbsLymp-1.63 
AbsMono-0.71 AbsEos-0.50 AbsBaso-0.00*
___ 01:22PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-1+ OVALOCYT-1+
___ 01:22PM   ___ PTT-26.6 ___
___ 01:22PM   PLT SMR-NORMAL PLT COUNT-246

___ 09:15AM BLOOD Glucose-82 UreaN-17 Creat-1.1 Na-142 
K-3.6 Cl-107 HCO3-25 AnGap-14

MICRO

___ 1:26 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O YERSINIA (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending): 

 
___ URINE URINE CULTURE-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 

 
Brief Hospital Course:
___ with hx of htn, GERD, bipolar disorder presenting with 
diarrhea and abdominal pain x4 days, likely viral 
gastroenteritis.

# Diarrhea/abdominal pain: Chronicity, including improvement in 
the last 24 hours, argues in favor of infectious etiology. No 
recent travel or known exposures, although timing may reflect 
exposure during her bus travel back from ___. Symptoms improved 
significantly with IV fluids. On discharge she was able to 
tolerate a regular diet and reported improvement in the quantity 
of diarrhea.

# Acute kidney injury: Last Cr 0.9 on ___, prerenal based on 
presenting symptoms and hyaline casts on sediment. Improved from 
1.8 to 1.4 with IV hydration in ED. On discharge cr was 1.1. 

# BRBPR: By description, classic for hemorrhoidal bleeding. No 
additional bloody diarrhea during the hospitalization.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 150 mg PO BID 
2. Divalproex (DELayed Release) 250 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1. BuPROPion 150 mg PO BID 
2. Divalproex (DELayed Release) 250 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea
viral gastroenteritis
acute kidney injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with diarrhea. Your diarrhea improved in the 
hospital, and you are now able to tolerate a normal diet. 

You were dehydrated which resulted in diminished kidney 
function. Your kidney function has now normalized.
 
Followup Instructions:
___